Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / ACE Inhibitors / Statins-Hmg-Coa Reductase 
Inhibitors / oxycodone
 
Attending: ___
 
Chief Complaint:
left facial weakness, slurred speech
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Time (and date) the patient was last known well: 1700 ___
clock) 

___ Stroke Scale Score: 5
The NIHSS was performed: 
Date: ___
Time: 1130 
(within 6 hours of patient presentation or neurology consult)

1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 3
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 0
10. Dysarthria: 2
11. Extinction and Neglect: 0

t-PA given: 
-No Reason t-PA was not given or considered: outside of time
window

Thrombectomy performed: [] Yes [x] No 
-If no, reason thrombectomy was not performed or considered: no
LVO 

Pre-mRs: 3
 
HPI: 
The patient is a ___ woman a past medical history of
hypertension, A. fib not on anticoagulation, sick sinus syndrome
status post dual-chamber pacemaker placement, GCA who presents 
as
code stroke for left facial droop and dysarthria. 
Briefly, patient lives in assisted living facility. LKW 
yesterday
at 1700 ___. This morning at 9 am ___ she was found by her aide
with slurred speech and left facial droop. 
EMS was called and patient brought to ___ ED where a code
stroke was called. NIHSS 5 for dysarthria and left upper and
lower facial weakness. Ct head without acute process. CTa with
diminished right vert but patent vessels. Not a candidate for 
any
intervention. No recent travel, fever, infections, or spending 
time outdoors. 

 
Past Medical History:
HTN
GCA confirmed with biopsy could not tolerate high dose 
prednisone
tapered off in ___. CRP ___ 44, ESR in ___ 37.
Afib not AC due to falls
HLD
Osteoarthritis 
Osteoporosis
DCIS s/p mastectomy 
MGUS
Thrombocytosis
Fractured left proximal humerus
Several Rib fractures
Fracture of right superior pubis
Compression fracture of L1
Fracture of right ankle
Hematochezia s/p EGD and colonscopy
Depression
trigeminal neuralgia
NPH

Surgeries:
Appendectomy
Mastectomy
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
Admission Physical Exam:
Vitals: 97.4, 54 160/68 18 96% RA 
General: NAD
HEENT:mmm
CV: no cyanosis
Pulm: CTAB
Abd: s/nt/nd
Ext: no c/c/e
Neuro:
-MS: Alert and oriented to person, "hospital. Language is fluent
with intact comprehension. Naming intact on stroke card. No
neglect.  
-CN: pupils are pinpoint ___, EOMI, left upper and lower facial
weakness, blinks to threat in all visual fields, moderate
dysarthria. 
-Motor: 
RUE: Delt 4+/5, biceps triceps ___, grip grossly full
LUE: unable to test delt (limited ROM since fracture), biceps 
and
triceps ___, grip grossly full
RLE: 4+/5 range throughout
LLE: 4+/5 range throughout
Sensation intact to light touch and PP throughout

 
Pertinent Results:
ADMISSION LABS
___ 12:15PM BLOOD WBC-6.2 RBC-3.91 Hgb-11.6 Hct-35.1 MCV-90 
MCH-29.7 MCHC-33.0 RDW-15.2 RDWSD-49.4* Plt ___
___ 09:00AM BLOOD Triglyc-102 HDL-67 CHOL/HD-3.4 
LDLcalc-139*
___ 09:00AM BLOOD %HbA1c-5.9 eAG-123
___ 12:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:25PM BLOOD Glucose-83 Creat-0.6 Na-137 K-3.9 Cl-104 
calHCO3-25

BRAIN MRI ___
1. Study is severely degraded by motion. 
2. Approximately 6 mm right corona radiata lesion with 
peripheral slow 
diffusion as described.  While finding may represent subacute 
infarct, 
intracranial metastatic, infectious or inflammatory lesion is 
not excluded on the basis of this motion degraded noncontrast 
examination.  If clinically indicated, consider contrast brain 
MRI for further evaluation. 
3. Within limits of study, no definite evidence of acute 
infarct. 

CT/CTA HEAD ___
1. No acute intracranial abnormality on noncontrast CT head. 
2. Segmental narrowing of the posterior cerebral arteries 
bilaterally, left greater than right, with focal severe stenosis 
of the P2 segment of the left PCA. 
3. The remainder the CT head demonstrates no evidence of 
high-grade stenosis, occlusion or aneurysm. 
4. Allowing for atherosclerotic disease, unremarkable CTA of the 
neck. 
5. Additional findings as described above. 

 
Brief Hospital Course:
 ___ with PMH of hypertension, A. fib not on anticoagulation, 
sick sinus syndrome status post dual-chamber pacemaker placement 
who presented with L entire face
weakness and dysarthria. CT/CTA showed no acute findings. 
Symptoms were thought to be Bell's palsy; however, given history 
of atrial fibrillation and GCA, she was admitted for brain MRI 
for further workup. This required coordination with cardiology 
since she has a pacemaker. MRI quality was suboptimal due to 
motion artifact. It showed a 6mm lesion in the R corona radiata 
that may represent old infarct, although the study was limited. 
Daughter/HCP was informed of the results and decided that it 
would be best for Ms ___ to go back to her facility 
rather than stay in the hospital for a repeat MRI, as pursuing 
further invasive workup (LP, etc) would not be within goals of 
care, and acute management would not change. 

Per daughter and HCP, patient had previously been on ___ for 
afib;
however, had multiple falls while on the medication. After
discussion with her doctors at ___ was stopped 
given
risk of falls. Patient never had any history of stroke. She was
diagnosed with GCA in ___ when she had jaw pain and no 
appetite.
She was admitted to ___ for workup and was found to have anemia
and fever. She completed a course of steroids and has been
symptom free since ___. Per daughter, patient never experienced
vision loss or headache.

Daughter states that when she spoke with patient ___ in the ED,
her speech seemed fine. Patient did have teeth implants and her
speech has occasionally been mildly slurred over the past 
several
months. Daughter did notice seeing facial weakness; however, she 
states she cannot remember which side of the face was weak. She 
initially
said L side of face, but patient herself thought her R side of
face was weak. Patient has dementia at baseline.

Given suspicion for Bell's palsy, patient was started on 
valacyclovir 1g TID with plan for a 7 day course. Given that she 
had a adverse reaction to steroids in the past, she was not 
started on steroids. She was continued on her home ASA 325mg 
daily. Proper eye care was encouraged with the use of eye drops 
and eye patch. 

TRANSITIONAL ISSUES
[] continue artificial tears TID, eye lubrication ointment TID, 
and eye patch at night for Bell's palsy to prevent corneal 
ulcerations 
[] started on valacyclovir 1g TID for presumed Bell's Palsy 
(___-)
[] follow up in neurology clinic. Please call ___ to 
obtain the appointment if you do not hear from our office in the 
next several days. 

 
Medications on Admission:
Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___  
Aspirin 325 mg PO DAILY  
Calcium Carbonate 500 mg PO DAILY  
Docusate Sodium 100 mg PO BID  
Polyethylene Glycol 17 g PO DAILY  
Senna 8.6 mg PO BID:PRN Constipation  
Venlafaxine 37.5 mg PO BID  
Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Bell's palsy 
hypertension 
atrial fibrillation not on anticoagulation (fall risk) 
history of falls and fractures 
sick sinus syndrome s/p pacemaker 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___, 

You presented to ___ because of left facial 
droop and slurred speech.

While in the hospital, you received a head CT scan which showed 
no acute abnormalities. You then had a brain MRI, which required 
coordination with cardiology since you have a pacemaker. The MRI 
quality was suboptimal due to movement artifact. Within these 
limitations, it appears there are no new strokes, although there 
is a lesion that may represent old stroke.

Your symptoms of left facial weakness may be due to a condition 
called Bell's palsy. You were started on a new medication, 
valacyclovir, which you should continue after discharge for 7 
days total.

We wish you the best,

Your ___ team
 
Followup Instructions:
___